US05095013
(E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]-N,N-dimethylacrylamide
The same operation as in Reference Example 4-2) was carried out by using (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N,N-dimethylacrylamide (the compound obtained in Reference Example 6-1); 2.02 g, 3.84 mmol) and triethylsilane (0.64 ml, 4.03 mmol), followed by flash column chromatographic purification on silica gel (Wakogel® C-300, 40 ml, elution with acetone-methylene chloride 1:1) to give the title compound (980 mg, 89.9% yield).

reactant | (E)-3-[(2S,4S)-N-allyloxycarbonyl-4-tritylthiopyrrolidin-2-yl]-N,N-dimethylacrylamide | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)/C=C/C(=O)N(C)C | C32H34N2O3S
reactant | triethylsilane | 4.03 mmol, 0.64 ml | C(C)[SiH](CC)CC | C6H16Si
product | (E)-3-[(2S,4S)-N-Allyloxycarbonyl-4-mercaptopyrrolidin-2-yl]-N,N-dimethylacrylamide | 980 mg, 89.9% yield | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)/C=C/C(=O)N(C)C | C13H20N2O3S
